US07098337B2
(4R,9aR)-6-(1-(RS)-Cyclopropylmethoxy-propyl)-4-methyl-1,2,3,4,9,9a-hexahydro-2,4a,5-triaza-fluorene
(4R,9aR)-6-(1-(RS)-Cyclopropylmethoxy-propyl)-4-methyl-1,2,3,4,9,9a-hexahydro-2,4a,5-triaza-fluorene di-trifluoroacetate (32 mg) was made from 6-(1-hydroxy-propyl)-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester (52 mg), using cyclopropylmethyl bromide (29 μl) in place of methyl iodide, according to the procedures described in Example 63 to afford the product as a colorless oil. HPLC [Xterra; 50/80; 255 nm] 100%, 1.44 min; MS (ES) 302.1 (MH+).

reactant | 6-(1-hydroxy-propyl)-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | 52 mg | C(C)(C)(C)OC(=O)N1CC2CC3=CC=C(N=C3N2C(C1)C)C(CC)O | C19H29N3O3
reactant | cyclopropylmethyl bromide | 29 μl | C1(CC1)CBr | C4H7Br
product | (4R,9aR)-6-(1-(RS)-Cyclopropylmethoxy-propyl)-4-methyl-1,2,3,4,9,9a-hexahydro-2,4a,5-triaza-fluorene | C1(CC1)COC(CC)C=1N=C2N3[C@@H](CNC[C@H]3CC2=CC1)C | C18H27N3O
